US08222245B2
2-[(1-Methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1H-2-benzazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride
1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate (Preparation 9) (310 mg, 0.653 mmol) was treated with HCl (3266 μl, 13.06 mmol) (4N in dioxan) and stirred. After 30 minutes a white precipitate had formed. After 1 hour ether (2 ml) was added and the precipitate filtered off and washed with ether. The title compound (230 mg) was obtained on drying. δH (400 MHz, d6DMSO) 1.39 (6H, d), 1.91 (2H, m), 3.11-3.13 (2H, m), 3.37-3.40 (2H, m), 4.42 (2H, s), 4.94-5.02 (1H, m), 7.57 (1H, d), 7.64 (1H, d), 7.96-8.00 (2H, m), 8.41 (1H, dd), 8.52 (1H, d), 9.04 (2H, broad s); MS (ES) C22H22N4O2 requires 374; found 375.0 [M+H]+.

reactant | 1,1-Dimethylethyl 7-(5-{3-cyano-4-[(1-methylethyl)oxy]phenyl}-1,2,4-oxadiazol-3-yl)-1,3,4,5-tetrahydro-2H-2-benzazepine-2-carboxylate | 0.653 mmol, 310 mg | C(#N)C=1C=C(C=CC1OC(C)C)C1=NC(=NO1)C=1C=CC2=C(CCCN(C2)C(=O)OC(C)(C)C)C1 | C27H30N4O4
reactant | HCl | 13.06 mmol, 4N, 3266 μl | Cl | ClH
solvent | ether | 2 ml | CCOCC | C4H10O
product | 2-[(1-Methylethyl)oxy]-5-[3-(2,3,4,5-tetrahydro-1H-2-benzazepin-7-yl)-1,2,4-oxadiazol-5-yl]benzonitrile hydrochloride | 230 mg | Cl.CC(C)OC1=C(C#N)C=C(C=C1)C1=NC(=NO1)C=1C=CC2=C(CCCNC2)C1 | InChI=1S/C22H22N4O2.ClH/c1-14(2)27-20-8-7-17(11-19(20)12-23)22-25-21(26-28-22)16-5-6-18-13-24-9-3-4-15(18)10-16;/h5-8,10-11,14,24H,3-4,9,13H2,1-2H3;1H
